US07612114B2
6-{2-[5-(2-Azepan-1-ylethoxy)-1,3-dihydroisoindol-2-yl]-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from 2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]-2,3-dihydro-1H-isoindol-5-ol and 1-(2-chloroethyl)azepane hydrochloride according to an analogous synthetic method to Preparation Example 40, 5-(2-azepan-1-ylethoxy)-2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]-2,3-dihydro-1H-isoindole (223 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (149 mg).

reactant | 2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]-2,3-dihydro-1H-isoindol-5-ol | COC=1C=CC(=C(C1)N1CC2=CC=C(C=C2C1)O)C1CC2=CC=C(C=C2CC1)OC | C26H27NO3
reactant | 1-(2-chloroethyl)azepane hydrochloride | Cl.ClCCN1CCCCCC1
reactant | 5-(2-azepan-1-ylethoxy)-2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]-2,3-dihydro-1H-isoindole | 223 mg | N1(CCCCCC1)CCOC=1C=C2CN(CC2=CC1)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C34H42N2O3
product | 6-{2-[5-(2-Azepan-1-ylethoxy)-1,3-dihydroisoindol-2-yl]-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 149 mg | N1(CCCCCC1)CCOC=1C=C2CN(CC2=CC1)C1=C(C=CC(=C1)O)C1CC=2C=CC(=CC2CC1)O | C32H38N2O3
